US05935966
ETHYL 4-[N-(1'-AMINOCITRACONAMIDO)]-2-BENZYLPYRIMIDINE-5-CARBOXYLATE
The title compound was prepared by (a) reaction of diethyl ethoxymethylenemalonate (11 g, 52 mmol) with phenylacetamidine (8 g, 60 mmol) to afford 40% of ethyl 2-benzyl-4-hydroxypyrimidine-5-carboxylate in analogy to Example 15, (b) reaction of 2-benzyl-4-hydroxypyrimidine-5-carboxylate (3 g, 12 mmol) with POCl3 (18 g, 116 mmol) to afford 45% of 2-benzyl-4-chloropyrimidine-5-carboxylate in analogy to Example 7, (c) reaction of 2-benzyl-4-chloropyrimidine-5-carboxylate (1.5 g, 5.5 mmol) with hydrazine (0.5 g, 16 mmol) to afford 75% of 2-benzyl-4-hydrazinopyrinmidine-5-carboxylate in analogy to Example 18, (d) reaction of ethyl 2-benzyl-4-hydrazinopyrimidine-5-carboxylate (1 g, 3.5 mmol) with citraconic anhydride (1 g, 11 mmol), in analogy to Example 21, to afford 70% (0.9 g) of the title compound; m.p. 117-118° C.

reactant | diethyl ethoxymethylenemalonate | 52 mmol, 11 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | phenylacetamidine | 60 mmol, 8 g | C1(=CC=CC=C1)CC(=N)N | C8H10N2
product | ethyl 2-benzyl-4-hydroxypyrimidine-5-carboxylate | 40% | C(C1=CC=CC=C1)C1=NC=C(C(=N1)O)C(=O)OCC | C14H14N2O3
